US07402595B2
6-benzylamino-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To toluene (40 ml) were added palladium(II) acetate (27 mg) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (240 mg) at room temperature, and the mixture was stirred for 5 min. under a nitrogen stream. To the reaction mixture were added 6-bromo-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (2.0 g) and benzylamine (0.6 ml) at room temperature and the mixture was stirred for 10 min. under a nitrogen stream. Further, to the reaction mixture was added sodium tert-butoxide (480 mg) at room temperature and the mixture was heated under reflux under a nitrogen atmosphere for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=1:1) to give the title compound (1.8 g).

reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 240 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 6-bromo-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 2.0 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C29H26BrNO5
reactant | benzylamine | 0.6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 480 mg | CC(C)([O-])C.[Na+]
catalyst | palladium(II) acetate | 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 6-benzylamino-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 1.8 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C36H34N2O5
